US05039675
d) 6-[2-(3-aminopropyl)-1H-benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H) -pyridazinone
25.9 g (62 mmol) of 6-[2-(3-phthalimidopropyl)-1H-benzimidazol -5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 16.0 ml (330 mmol) of hydrazine hydrate are boiled under reflux in 300 ml of ethanol for 1 5 hours. The thick suspension obtained is concentrated by evaporation under vacuum and the residue is taken up with 500 ml of 2N hydrochloric acid and the solution is filtered. The filtrate is concentrated by evaporation under vacuum and after the addition of 100 ml of ethanol it is again concentrated by evaporation. The solid obtained as residue is taken up with 200 ml of saturated potassium carbonate solution and the mixture is extracted with 3×100 ml of isopropanol. The combined organic phases are dried and concentrated by evaporation under vacuum. 13·9 g (79%) of a colorless solid are obtained after recrystallization from ethanol/water.

reactant | 6-[2-(3-phthalimidopropyl)-1H-benzimidazol -5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 62 mmol, 25.9 g | C1(C=2C(C(N1CCCC1=NC3=C(N1)C=CC(=C3)C=3C(CC(NN3)=O)C)=O)=CC=CC2)=O | C23H21N5O3
reactant | hydrazine hydrate | 330 mmol, 16.0 ml | O.NN
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-[2-(3-aminopropyl)-1H-benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H) -pyridazinone | 9 g, 79% | NCCCC1=NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C | C15H19N5O
